US07714126B2
To a solution of 1-(5-nitro-pyridin-2-yl)-pyrrolidin-3-ol (120 mg, 0.57 mmol) in 5 mL of DMF was added 10 equivalent of sodium hydride (228 mg, 5.7 mmol, 60% in mineral oil). The mixture was stirred at 23° C. for 15 min followed by the addition of 10 equivalent of iodomethane (355 uL, 5.7 mmol). The reaction was continually stirred for 2 h and then extracted with ethyl acetate and water. The organic phase was dried and solvent was evaporated. The residue was purified on a flash chromatography column with EtOAc/hexanes to afford 2-(3-methoxy-pyrrolidin-1-yl)-5-nitro-pyridine. LRMS calcd for C10H13N3O3 (m/e) 223, obsd 224 (M+H).

reactant | 1-(5-nitro-pyridin-2-yl)-pyrrolidin-3-ol | 0.57 mmol, 120 mg | [N+](=O)([O-])C=1C=CC(=NC1)N1CC(CC1)O | C9H11N3O3
reactant | sodium hydride | 5.7 mmol, 228 mg, 10 equivalent | [H-].[Na+]
reactant | iodomethane | 5.7 mmol, 355 uL, 10 equivalent | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(3-methoxy-pyrrolidin-1-yl)-5-nitro-pyridine | COC1CN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C10H13N3O3
